US07521447B2
Step F: (S)-methyl 2-amino-4-(dimethylamino)butanoate dihydrochloride:
To a cooled (0° C.) solution of (S)-2-tert-butoxycarbonylamino-4-dimethylaminobutyric acid methyl ester (23.4 g, 90 mmol) in dioxane (100 mL) was added drop-wise HCl (225 mL, 4M in dioxane). The mixture was warmed to room temperature and stirred for 3 hours. The solid was filtered, washed with ether (3×100 mL), and dried under high vacuum to afford 20.2 g of product (96% yield).

reactant | (S)-2-tert-butoxycarbonylamino-4-dimethylaminobutyric acid methyl ester | 90 mmol, 23.4 g | COC([C@H](CCN(C)C)NC(=O)OC(C)(C)C)=O | C12H24N2O4
reactant | HCl | 4M, 225 mL | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (S)-methyl 2-amino-4-(dimethylamino)butanoate dihydrochloride | 20.2 g, 96% yield | Cl.Cl.N[C@H](C(=O)OC)CCN(C)C | InChI=1S/C7H16N2O2.2ClH/c1-9(2)5-4-6(8)7(10)11-3;;/h6H,4-5,8H2,1-3H3;2*1H/t6-;;/m0../s1
